US07026339B2
A mixture of 2-[2-(hydroxymethyl)cyclopropyl]phenyl 4-(trifluoromethyl)-benzenesulfonate (0.70 g, 1.9 mmol), carbon tetrachloride (2.5 mL), acetonitrile (2.5 mL), water (3.8 mL), sodium periodate (1.8 g, 8.4 mmol) and ruthenium choride hydrate (75 mg, 0.4 mmol) is stirred at room temperature overnight. The reaction is partitioned between ethyl acetate and dilute HCl. The organic layer is filtered through anhydrous sodium sulfate, evaporated and purified on silica gel in ethyl acetate-methylene chloride-acetic acid mixtures. The product, 2-[2-({[4-(trifluoromethyl)phenyl]sulfonyl}oxy)phenyl]cyclopropanecarboxylic acid, is obtained as a mixture of isomers. A yield of 95% is obtained.

reactant | 2-[2-(hydroxymethyl)cyclopropyl]phenyl 4-(trifluoromethyl)-benzenesulfonate | 1.9 mmol, 0.70 g | FC(C1=CC=C(C=C1)S(=O)(=O)OC1=C(C=CC=C1)C1C(C1)CO)(F)F | C17H15F3O4S
reactant | carbon tetrachloride | 2.5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | acetonitrile | 2.5 mL | C(C)#N | C2H3N
reactant | sodium periodate | 8.4 mmol, 1.8 g | I(=O)(=O)(=O)[O-].[Na+]
catalyst | ruthenium choride hydrate | 0.4 mmol, 75 mg | O.[Ru](Cl)(Cl)Cl
solvent | water | 3.8 mL | O | H2O
product | 2-[2-({[4-(trifluoromethyl)phenyl]sulfonyl}oxy)phenyl]cyclopropanecarboxylic acid | yield of 95% | FC(C1=CC=C(C=C1)S(=O)(=O)OC1=C(C=CC=C1)C1C(C1)C(=O)O)(F)F | C17H13F3O5S
